US07109209B2
To a solution of ethyl 3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(4-fluorophenyl)-7-methylpyrazolo[1,5-α]pyridine-6-carboxylate (40 mg, 0.087 mmol) in dioxane (600 μL) was added lithium hydroxide (300 μL, 1M aqueous, 0.30 mmol). The reaction mixture was stirred at room temperature 16 hours. The reaction mixture was concentrated in vacuo to remove dioxane, then diluted with water. The aqueous mixture was acidified with 1 N aqueous hydrochloric acid. Upon standing for 72 hours, a solid precipitate had formed which was collected by filtration to provide 3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(4-fluorophenyl)-7-methylpyrazolo[1,5-α]pyridine-6-carboxylic acid (31 mg, 82%). Rf 0.10 (19:1 dichloromethane:methanol); MS m/z 432 (M+1).

reactant | ethyl 3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(4-fluorophenyl)-7-methylpyrazolo[1,5-α]pyridine-6-carboxylate | 0.087 mmol, 40 mg | C1(CCCC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC(=C2C)C(=O)OCC)C2=CC=C(C=C2)F | C26H26FN5O2
reactant | lithium hydroxide | 0.30 mmol, 1M, 300 μL | [OH-].[Li+]
solvent | dioxane | 600 μL | O1CCOCC1 | C4H8O2
product | 3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(4-fluorophenyl)-7-methylpyrazolo[1,5-α]pyridine-6-carboxylic acid | 31 mg, 82% | C1(CCCC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC(=C2C)C(=O)O)C2=CC=C(C=C2)F | C24H22FN5O2
